US07902201B2
d) 3-(4-Chloro-phenyl)-isoxazole-4-carboxylic acid
As described for example 13d, 3-(4-chloro-phenyl)-isoxazole-4-carboxylic acid ethyl ester (57.0 g, 226.5 mmol) was converted, instead of 3-(4-fluoro-phenyl)-isoxazole-4-carboxylic acid ethyl ester, to the title compound (50.7 g, 92%) which was obtained as a light yellow solid. MS: m/e=222.3 [M−H]−.

reactant | 3-(4-chloro-phenyl)-isoxazole-4-carboxylic acid ethyl ester | 226.5 mmol, 57.0 g | C(C)OC(=O)C=1C(=NOC1)C1=CC=C(C=C1)Cl | C12H10ClNO3
reactant | 3-(4-fluoro-phenyl)-isoxazole-4-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=NOC1)C1=CC=C(C=C1)F | C12H10FNO3
product | 3-(4-Chloro-phenyl)-isoxazole-4-carboxylic acid | 50.7 g, 92% | ClC1=CC=C(C=C1)C1=NOC=C1C(=O)O | C10H6ClNO3
